US05663164
437 mg of bis (1-methyl-(1H)-tetrazol-5-yl)-disulfide suspended in 7.5 ml of methylene chloride cooled to -20° C. was admixed with stirring in an inert atmosphere with a solution of 124 mg of chlorine in 0.975 ml of carbon tetrachloride. The temperature was allowed to rise to 0° C. with stirring for 5 minutes at 0° C., 595 mg of tert-butyl diazopyruvate in solution in 5 ml of methylene chloride were added to the solution of 1-methyl-(1H)-tetrazol-5-yl sulfenyl chloride obtained over 10 minutes, with stirring for 15 minutes at 0° C. Then the temperature was allowed to rise to the ambient and the tert.-butyl 3-chloro-3-[1-methyl-(1H)-tetrazol-5-yl-thio]-pyruvate formed was added all at once to 2.16 g of 4-mercaptomethyl-3-[2-(2-tritylaminothiazol-4-yl)-2methoxyimino-acetamido]-2-oxo-1-azetidine, 0.61 ml of triethylamine and 10 ml of methylene chloride. After stirring for 3 hours, the insoluble matter was filtered off and the filtrate was washed with 50 ml of water to which was added 2 ml of 2N hydrochloric acid, and then with water, and dried and concentrated to dryness under reduced pressure. The residue was chromatographed on silica and eluted with a mixture of methylene chloride and ethyl acetate (75-25) to obtain 1.393 g. of 1,1-dimethylethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-8-oxo-3-[(1-methyl-(1H)-tetrazol-5-yl)-thio]-4-thia-1-azabicyclo[4,2,0]octane-2-hydroxy-2-carboxylate.

reactant | bis (1-methyl-(1H)-tetrazol-5-yl)-disulfide | 437 mg | CN1N=NN=C1SSC1=NN=NN1C | C4H6N8S2
reactant | chlorine | 124 mg | ClCl | Cl2
reactant | tert-butyl diazopyruvate | 595 mg | [N+](=[N-])=CC(C(=O)OC(C)(C)C)=O | C7H10N2O3
reactant | 1-methyl-(1H)-tetrazol-5-yl sulfenyl chloride | CN1N=NN=C1SCl | C2H3ClN4S
solvent | methylene chloride | 7.5 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 0.975 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | tert.-butyl 3-chloro-3-[1-methyl-(1H)-tetrazol-5-yl-thio]-pyruvate | ClC(C(C(=O)OC(C)(C)C)=O)SC1=NN=NN1C | C9H13ClN4O3S
